US09388189B2
2-(3-Methoxybenzyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
1-(Bromomethyl)-3-methoxybenzene (140 μl, 1.00 mmol) was treated with bis(pinacolato)diboron (305 mg, 1.20 mmol), di-tert-butyl(methyl)phosphonium tetrafluoroborate (7 mg, 0.03 mmol), potassium phosphate tribasic (424 mg, 2.00 mmol) and tris(dibenzylideneacetone)dipalladium(0) (5 mg, 0.01 mmol) according to the method described in Preparation 156 to obtain 164 mg (66% yield) of the title compound as an oil.

reactant | 1-(Bromomethyl)-3-methoxybenzene | 1.00 mmol, 140 μl | BrCC1=CC(=CC=C1)OC | C8H9BrO
reactant | bis(pinacolato)diboron | 1.20 mmol, 305 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium phosphate tribasic | 2.00 mmol, 424 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | di-tert-butyl(methyl)phosphonium tetrafluoroborate | 0.03 mmol, 7 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C)C(C)(C)C
product | 2-(3-Methoxybenzyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 164 mg, 66% yield | COC=1C=C(CB2OC(C(O2)(C)C)(C)C)C=CC1 | C14H21BO3
